US06451810B1
Using the method of Example 14, 1-(4-aminobutyl)-1H-imidazo[4,5-c]quinolin-4-amine (0.2 g, 0.78 mmol) was reacted with hydrocinnamoyl chloride (0.11 mL, 0.74 mmol) to provide 0.14 g of N1-[4-(4-amino-1H-imidazo[4,5-c]quinolin-1-yl)butyl]-3-phenylpropanamide as a white solid, m.p. 148-150° C. 1H NMR (500 MHz, DMSO-d6) δ8.19 (s, 1H), 8.03 (d, J=8.0 Hz, 1H), 7.82 (t, J=6.0 Hz, 1H), 7.63 (d, J=8.0 Hz, 1H), 7.45 (t, J=8.0 Hz, 1H), 7.27 (t, J=8.0 Hz, 1H), 7.22 (t, J=8.0 Hz, 2H), 7.15 (m, 3H), 6.66 (broad s, 2H), 4.58 (t, J=7.0 Hz, 2H), 3.06 (q, J=6.0 Hz, 2H), 2.75 (t, J=7.0 Hz, 2H), 2.31 (t, J=7.0 Hz, 2H), 1.79 (quintet, J=7.0 Hz, 2H), 1.40 (t, J=7.0 Hz, 2H); MS (EI) m/e 387.2067 (387.2059 calcd for C23H25N5O).

reactant | 1-(4-aminobutyl)-1H-imidazo[4,5-c]quinolin-4-amine | 0.78 mmol, 0.2 g | NCCCCN1C=NC=2C(=NC=3C=CC=CC3C21)N | C14H17N5
reactant | hydrocinnamoyl chloride | 0.74 mmol, 0.11 mL | C(CCC1=CC=CC=C1)(=O)Cl | C9H9ClO
product | N1-[4-(4-amino-1H-imidazo[4,5-c]quinolin-1-yl)butyl]-3-phenylpropanamide | 0.14 g | NC1=NC=2C=CC=CC2C2=C1N=CN2CCCCNC(CCC2=CC=CC=C2)=O | C23H25N5O
